### PR TITLE
Update code style of Induction and UsingLean

### PR DESCRIPTION
**Pull request by berberman**
This PR updates Induction and UsingLean to make them follow the style introduced in #42. No semantic changes.

### CODE REVIEW

File: LF/Induction.lean [hunk 1]
```diff
@@ -111,7 +111,8 @@ theorem review1 : (true || false) = true := by rfl
 -- HIDE
 /- review2 -/
 theorem review2 : ∀ b : Bool, (true || b) = true := by
-  intro b; rfl
+  intro b
+  rfl
```
Comment (mwhicks1) [inline LF/Induction.lean:115]: I like this but: Where is the style guideline to put these on separate lines? Is it just that we haven't introduced semi-colon yet? Or, maybe this follows the Lean style guidelines of one tactic per line unless they combine into a single mathematical idea?

File: LF/Induction.lean [hunk 2]
```diff
@@ -444,7 +452,7 @@ theorem add_assoc (n m p : Nat) :
 @[irreducible]
 def double (n : Nat) : Nat :=
   match n with
-  | zero => zero
+  | zero    => zero
```
Comment (mwhicks1) [inline LF/Induction.lean:455]: I see that you are doing this to line up the `zero` and `succ n'` righthand sides. But you are not doing this in the examples above. And I don't see this as a guideline in the Lean style guide, but perhaps I missed it. Let's either _not_ do this kind of indentation, or else define a guideline in our CONTRIBUTING.md file (with justification) and do it everywhere. (I'd vote not to do it at all.)

File: LF/Induction.lean [hunk 3]
```diff
@@ -539,10 +545,11 @@ unseal even in
...
     even (succ n) = !even n := by
   -- ADMITTED
-  induction n
-  case zero =>
-    rw [even_zero, even_one]; rfl
-  case succ n' ih =>
+  induction n with
+  | zero =>
+    rw [even_zero, even_one]
+    rfl
```
Comment (mwhicks1) [inline LF/Induction.lean:574]: Normally `rw` does `rfl` by default at the end, doesn't it, so do we really need it here?

**Review by xhalo32 — DISMISSED** [review]
Looks good

File: LF/Induction.lean [hunk 4]
```diff
@@ -949,38 +954,39 @@ theorem mul_comm (m n : Nat) :
...
+  | true  => rw [Bool.true_and]
 -- /ADMITTED
 
 theorem all3_spec (b c : Bool) :
     (b && c) || ((!b) || (!c)) = true := by
   -- ADMITTED
-  cases b
-  case true => cases c <;> rfl
-  case false => rfl
+  cases b with
```
Comment (mwhicks1) [inline LF/Induction.lean:1046]: Just makes me wonder: Do we have a preferred time/place to introduce `<;>` ? If we haven't done it by this point, this might be a good example to demo it.

File: LF/UsingLean.lean [hunk 5]
```diff
@@ -94,9 +94,10 @@ theorem complicated_computation : (2 * 3 + 4 * 5 : Nat) * 6 = 156 := by
 
   theorem rfl_not_enough (n m : Nat) (h : n = m) : n = m := by
     -- rfl will not work here!
-    /- We need to use `h` to rewrite the goal, and then `rfl` will work. -/
-    rewrite [h]
-    rfl
+    /- We need to use `h` to rewrite the goal, and then `rfl` will work.
+       Equivalently, we can use `rw`:
+    -/
+    rw [h]
```
Comment (mwhicks1) [inline LF/UsingLean.lean]: Let's show it both ways: Do it the way it's shown above, then show that you can use `rw [h]` as a second (duplicate) example. Then explain what `rw` is doing, compared to `rewrite`. From the Lean documentation: "[rw](https://lean-lang.org/doc/reference/latest/Tactic-Proofs/Tactic-Reference/#rw) is like [rewrite](https://lean-lang.org/doc/reference/latest/Tactic-Proofs/Tactic-Reference/#rewrite), but also tries to close the goal by "cheap" (reducible) [rfl](https://lean-lang.org/doc/reference/latest/Basic-Propositions/Propositional-Equality/#rfl-next) afterwards." Maybe copy this here?

Then update mentions of `rewrite` below to be `rw` (even in comments).

**Review by mwhicks1 — CHANGES_REQUESTED** [review]
Looks good, thank you! A few minor changes requested.

File: LF/Induction.lean (hunk 1 above)
Comment (berberman) [reply LF/Induction.lean:115]: I don't think there's a particular style guideline (If I didn't miss it), and I made this change because I thought this would improve the readability a little bit.

File: LF/Induction.lean (hunk 2 above)
Comment (berberman) [reply LF/Induction.lean:455]: We do have this style guideline for `induction`/`cases` in our `CONTRIBUTING.md‎`, but not explicitly for `match`, though I think `match` should follow the similar style in general.

I agree this kind of alignment is annoying. I personally don't like it and I never use it in my project... However, it seems to be popular in Lean community, to some extent. I'm not sure about the Mathlib but the Lean 4 codebase has a lot, for example

https://github.com/leanprover/lean4/blob/a54f7e9c7ec212c629363121c0f977d07a8c4eff/src/Lean/AddDecl.lean#L47-L50

Moreover, we also have had this style guideline before I made it clear in #52: "...and **align the `=>`** as above." That's why I followed it. But if most of us agree not to have this alignment, I'm happy to revert all the changes for aligning the arrows and update CONTRIBUTING.md. (I'm on this side.)

File: LF/Induction.lean (hunk 3 above)
Comment (berberman) [reply LF/Induction.lean:574]: Lean will complain if the goal was closed when there are more tactics, so I think `rfl` here is necessary.

Here is reason I can tell: strictly speaking, `rw [...]` not equivalent to `rewrite [...]; rfl`. `rw [...]` expands to something like `rewrite [...]; try (withReducible rfl)`, which runs `rfl` in `.reducible` transparent mode (only reducible definitions may be delta expanded). On the other hand, `rfl` by default runs in `.default` transparency mode, which expands more definitions. So it's possible to have a required `rfl` after `rw [...].`

File: LF/Induction.lean (hunk 4 above)
Comment (berberman) [reply LF/Induction.lean:1046]: Correct me if I'm wrong, I don't think we introduced `<;>` anywhere, so I removed it. We can do it here, or maybe in Tactics?

File: LF/Induction.lean (hunk 2 above)
Comment (mwhicks1) [reply LF/Induction.lean:455]: I see that the earlier examples I referred to ("But you are not doing this in the examples above") are multi-line, so that it is consistent in the file. Since this space is what's in CONTRIBUTING.md then that's Ok---no need to re-litigate it now.

File: LF/Induction.lean (hunk 4 above)
Comment (mwhicks1) [reply LF/Induction.lean:1046]: I don't see it anywhere in the text. I am suggesting that we _can_ introduce it here, but we should add some text to explain what it's doing. That is: Start with the solution being what you have, then show the theorem again but using this tactic for the solution.

**Review by mwhicks1 — APPROVED** [review]
Looks great, thank you!
